US04552822
A 300 milliliter Parr minibomb was charged with orcinol monohydrate, 42 grams, 0.3 mole and di-n-butylamine, 128 milliliters. The bomb was sealed and heated to 200° C. At this temperature the internal pressure of the bomb was 90 pounds per square inch as registered on the gauge. After 48 hours at 200°, the bomb was cooled and the light brown syrup analyzed by thin-layer chromatography. The excess di-n-butylamine was removed by distillation at 20 Torr and the product was further purified by filtration through a silica gel column using ethyl acetate as the eluent. The product 3-dibutylamino-5-methylphenol was isolated in 61% yield: 43 grams. This material was not further characterized but used directly in the subsequent reaction.

reactant | orcinol monohydrate | O.C1(=CC(O)=CC(C)=C1)O
reactant | di-n-butylamine | C(CCC)NCCCC | C8H19N
product | 3-dibutylamino-5-methylphenol | 61% yield | C(CCC)N(C=1C=C(C=C(C1)C)O)CCCC | C15H25NO
